US05863917
A mixture of 5-amino-6,7-dichloro-2,3-dimethoxyquinoxaline (10.0 g, 36.5 mmol), methanesulphonic anhydride (31.8 g, 183 mmol) and pyridine (14.8 ml, 183 mmol) in dry dichloromethane (150 ml) was stirred at 20° C. for 16 hours. The solvent was removed under reduced pressure and the residue dissolved in a mixture of water (5 ml) and tetrahydrofuran (50 ml). After being stirred for 10 minutes, the solution was partitioned between ethyl acetate and 2M hydrochloric acid. The combined organic solutions were washed with saturated aqueous sodium bicarbonate, dried (MgSO4), and concentrated under reduced pressure. Purification of the residue by flash chromatography (gradient elution with hexane/dichloromethane) gave 6,7-dichloro-5-di(methanesulphonyl) amino-2,3-dimethoxyquinoxaline as an off-white solid (12.3 g, 78%), mp 240°-244° C.

reactant | 5-amino-6,7-dichloro-2,3-dimethoxyquinoxaline | 36.5 mmol, 10.0 g | NC1=C2N=C(C(=NC2=CC(=C1Cl)Cl)OC)OC | C10H9Cl2N3O2
reactant | methanesulphonic anhydride | 183 mmol, 31.8 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | pyridine | 183 mmol, 14.8 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 6,7-dichloro-5-di(methanesulphonyl) amino-2,3-dimethoxyquinoxaline | 12.3 g, 78% | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)N(S(=O)(=O)C)S(=O)(=O)C | C12H13Cl2N3O6S2
